US04831041
To a solution of 3-(2-hydroxymethylbenzyloxy)-2-nitropyridine (4.09 g) in dichloromethane (40 ml) was added thionyl chloride (0.24 ml) and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure to give 3-(2-chloromethylbenzyloxy)-2-nitropyridine (4.10 g).

reactant | 3-(2-hydroxymethylbenzyloxy)-2-nitropyridine | 4.09 g | OCC1=C(COC=2C(=NC=CC2)[N+](=O)[O-])C=CC=C1 | C13H12N2O4
reactant | thionyl chloride | 0.24 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3-(2-chloromethylbenzyloxy)-2-nitropyridine | 4.10 g | ClCC1=C(COC=2C(=NC=CC2)[N+](=O)[O-])C=CC=C1 | C13H11ClN2O3
